US05049669
A mixture of N-(4-methylpentyl)-l0-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide hydrochloride (1.2 g) and mercuric acetate (0.88 g) in acetic acid (20.5 cc) is stirred for 16 hours at a temperature in the region of 20° C. The orange suspension obtained is diluted with distilled water (50 cc), filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is taken up with distilled water (50 cc) and ethyl acetate (100 cc). The mixture is alkalinized to pH 13 with sodium hydroxide (d=1.33). The organic phase is separated and then washed successively with distilled water (2×25 cc) and saturated aqueous sodium chloride solution (25 cc). The organic phase is then dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The oily yellow residue (0.82 g) is dissolved in ethyl acetate (10 cc) and treated, with stirring, with a 3.3N solution (0.55 cc) of hydrochloric acid in isopropyl ether. After 1 hour with stirring at a temperature in the region of 5° C., the solid formed is drained, washed with ethyl ether (3×10 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. N-(4-Metylpentyl)-l0-[(2RS)-1-1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride (0.6 g) is thereby obtained in the form of a very pale yellow solid, m.p. 218° C.

reactant | N-(4-methylpentyl)-l0-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide hydrochloride | 1.2 g | Cl.CC(CCCNC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C)C
reactant | acetic acid | 20.5 cc | C(C)(=O)O | C2H4O2
solvent | water | 50 cc | O | H2O
product | 2-phenothiazinecarboxamide hydrochloride | 0.6 g | Cl.C1=C(C=CC=2SC3=CC=CC=C3NC12)C(=O)N | InChI=1S/C13H10N2OS.ClH/c14-13(16)8-5-6-12-10(7-8)15-9-3-1-2-4-11(9)17-12;/h1-7,15H,(H2,14,16);1H
